US07405300B2
1-(4-tert-Butylphenyl)-2-chloro-1H-indole-3-carboxaldehyde is reacted with N,N,N′-trimethylethylenediamine as described in Step 2 of Example 29 to afford 1-(4-tert-butylphenyl)-2-[(2-dimethylaminoethyl)-methylamino]-1H-indole-3-carboxaldehyde (42% yield) as a light tan solid. TLC (silica gel, 7N NH3 in methanol/MeOH/Ethyl acetate (0.1:2:10 mL)) Rf 0.29. ESI/MS 378 (M+H); RT 3.43 min. NMR10.18 (1H, s); 8.10 (1H, d, J=9 Hz); 7.66 (2H, d); 7.48 (2H, d); 7.17 (1H, t); 7.08 (1H, t); 6.88 (1H, d, J=9 Hz); 3.21 (2H, t); 3.02 (3H, s); 2.18 (2H, t); 2.00 (6H, t); 1.36 (9H, s).

reactant | 1-(4-tert-Butylphenyl)-2-chloro-1H-indole-3-carboxaldehyde | C(C)(C)(C)C1=CC=C(C=C1)N1C(=C(C2=CC=CC=C12)C=O)Cl | C19H18ClNO
reactant | N,N,N′-trimethylethylenediamine | CN(CCNC)C | C5H14N2
product | 1-(4-tert-butylphenyl)-2-[(2-dimethylaminoethyl)-methylamino]-1H-indole-3-carboxaldehyde | 42% yield | C(C)(C)(C)C1=CC=C(C=C1)N1C(=C(C2=CC=CC=C12)C=O)N(C)CCN(C)C | C24H31N3O
